US08058431B2
7) 2-(6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-ylidenemethyl)-3-methyl-benzothiazol-3-ium iodide
600 mg (1.41 mmol) 6-Methoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide and 412 mg (1.41 mmol) 2,3-dimethyl-benzothiazol-3-ium iodide were dissolved in 2.0 ml dimethylformamide and 571 mg (0.79 ml, 5.64 mmol) triethylamine were added. The solution was stirred for 1 h at 80° C., filtrated and the residue was washed with water and methanol.

reactant | 6-Methoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide | 1.41 mmol, 600 mg | [I-].COC=1C=C2C(=NC(=[N+](C2=CC1)C)C1=CC=CC=C1)SC
reactant | 2,3-dimethyl-benzothiazol-3-ium iodide | 1.41 mmol, 412 mg | [I-].CC=1SC2=C([N+]1C)C=CC=C2
reactant | triethylamine | 5.64 mmol, 0.79 ml, 571 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 2-(6-Methoxy-1-methyl-2-phenyl-1H-quinazolin-4-ylidenemethyl)-3-methyl-benzothiazol-3-ium iodide | [I-].COC=1C=C2C(N=C(N(C2=CC1)C)C1=CC=CC=C1)=CC=1SC2=C([N+]1C)C=CC=C2 | InChI=1S/C25H22N3OS.HI/c1-27-22-11-7-8-12-23(22)30-24(27)16-20-19-15-18(29-3)13-14-21(19)28(2)25(26-20)17-9-5-4-6-10-17;/h4-16H,1-3H3;1H/q+1;/p-1
